US04771046
(1R,5S,6S)-2-[2-(4-Hydroxyiminopiperidin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid (Compound No. 28)
0.28 ml of diisopropylethylamine and 0.29 ml of diphenylphosphoryl chloride were added dropwise to an ice-cooled solution of 500 mg of 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 6 ml of anhydrous acetonitrile, and then the mixture was stirred for one hour with ice-cooling. 0.2 ml of diisopropylethylamine and 426 mg of 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride in 3.6 ml of dimethylsulfoxide were added to the reaction mixture, and then the whole mixture was stirred for a further 30 minutes with ice-cooling. The reaction mixture was poured into 200 ml of anhydrous ether and the solvent was decanted off from the gummy material which formed. This material was dissolved in a mixture of 40 ml of tetrahydrofuran and 46 ml of 0.1M phosphate buffer (pH 7.0), and the solution was subjected to hydrogenation for 2 hours at room temperature in the presence of 0.6 g of 10% palladium-carbon. The hydrogenation mixture was filtered over "Celite" (Trade Mark) filter aid, and the filtrate was extracted with 80 ml of ether. The aqueous layer was concentrated under reduced pressure and the concentrate was subjected to chromatography through a 160 ml column of "Dowex 50W" (Trade Mark) cation exchange resin (Na+ type), giving 68 mg of the title product from the fraction eluted with water.

reactant | diisopropylethylamine | 0.28 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl chloride | 0.29 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 500 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | diisopropylethylamine | 0.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride | 426 mg | Cl.ON=C1CCN(CC1)C(CS)=N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | dimethylsulfoxide | 3.6 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | phosphate | 0.1M, 46 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
catalyst | palladium-carbon | 0.6 g | [C].[Pd]
solvent | ether | 200 ml | CCOCC | C4H10O
product | (1R,5S,6S)-2-[2-(4-Hydroxyiminopiperidin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid | 68 mg | ON=C1CCN(CC1)C(CSC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C)=N | C17H24N4O5S
